US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-thiol-6-oxide
A mixture of 1.5 g (4 mmol) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide, 1.5 g (20 mmol) of thiourea and 5 ml of a 4M methanol solution of sodium methoxide in 30 ml of methanol was stirred at room temperature for 5 hr. The mixture was poured into water and extracted with ether. The aqueous solution was acidified with acetic acid and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue was triturated with methylene chloride to give an orange solid. Recrystallization from methylene chloride gave the product as orange crystals, mp 323°-325° C. (dec.).

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide | 4 mmol, 1.5 g | ClC1=CC2=C(C(C(C[N+](=C2C2=C(C=CC=C2)F)[O-])=CN(C)C)=O)C=C1 | C19H16ClFN2O2
reactant | thiourea | 20 mmol, 1.5 g | NC(=S)N | CH4N2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 4M | CO | CH4O
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-2-thiol-6-oxide | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)F)[O-])C=NC(=N3)S)C=C1 | C18H11ClFN3OS
